Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Morphine / Verapamil / Oxycodone / tramadol
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
Diagnostic paracentesis (___)
Therapeutic paracentesis (___) - 5L fluid drained, repleted 
with 37.5g albumin

 
History of Present Illness:
___ is ___ with history of ESRD ___ ADPKD on
HD (MWF), hypertensive cardiomyopathy (EF 35-40%), known
moderately-sized circumferential pericardial effusion w/o
tamponade, large volume ascites secondary to be ___ organomegaly
requiring consistent paras, and recent admission for flank pain
and hematuria thought secondary to cyst rupture (___)
presenting with 1 day of fever, chills, myalgias. 

Patient reports that starting last night, she has had myalgia,
malaise, fatigue, and chills. This AM at HD, she says she had a
fever of 103.8F. She completed dialysis. She has had runny nose
for months. She says her abdomen size has gradually increased 
but
without acute increase. Patient reports a mild headache but has
full range of motion of neck, and denies visual changes.

Patient admitted ___ for 1 month of heamturia and
subsequent right flank pain, suspected ___ large cyst rupture 
and
peritoneal irritation. Also noted to have moderately-sized
circumferential pericardial effusion on TTE in ___, seen 
again
on ___, without tamponade physiology, not sampled, as well as
ascites w/ SAAG <1, thought ___ cystic burden. She treated with
pain control and discharged with Dilaudid for 2 day course (2mg
Q6H PRN).

In the ED:
Initial vital signs were notable for:
103.1F, HR 85, BP 140/86, RR 18, 95% RA 

Exam notable for:
TM wnl, OP clear
full ROM of neck 
lungs ctab
abd distended w/ fluid wave, +ascites, no cva tenderness
no leg swelling
no rashes

Labs were notable for:
Lactate 1.3
K 4.5 
BUN 20, Cr 6.0

WBC 3.0
H/H 10.0/33.2
plt 112
INR 1.3

Studies performed include:
CXR
1. Left basilar atelectasis.
2. No consolidation or evidence of pneumonia.

Patient was given:
1L LR, 1g vanc, Tylenol

Consults:
Renal HD

Vitals on transfer:
98.9F, 131 / 86, HR 92, RR 20, 98% Ra 

Upon arrival to the floor, patient was endorsing myalgia,
malaise, fatigue, and mild headache at her temples. She endorses
mild posterior neck pain with neck flexion but has full range of
motion. Denies chest pain, dyspnea, abdominal pain, leg 
swelling,
new rashes. Denies dysuria or increased urinary frequency. Last
stool yesterday and normal per pt. Denies new rash. AVF looks
normal per pt (currently partially covered in dressing).

 
Past Medical History:
- Autosomal Dominant Polycystic Kidney Disease on HD ___.
Cystic involvement of the liver and ovaries as well.  
- HTN-induced dilated cardiomyopathy, EF ___, with cardiac
ascites  
- Hypertension  
- Migraine headaches  
- Questionable history of cerebral aneurysm; MRI in ___ did not
see any cerebral aneurysms  
- h/o UGIB requiring PRBC ___ EGD showed ___ 
erosion vs. MW tear + small ulcer at GE junction. Possibly
related to
NSAID use.  
- Colelithiasis  
- GERD  
- Hyperparathyroidism ___ kidney disease
 
Social History:
___
Family History:
8 family members with ___ kidney disease in an autosomal  
dominant pattern on paternal side. Two sisters and one brother 
with ESRD ___ ___ 
 
Physical Exam:
ADMISSION EXAM:
VITALS: per above
GENERAL: Alert and interactive. In no acute distress. Fatigued.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Loud S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Lower left inspiratory crackles. No wheezes, rhonchi. No
increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Distended, non-tender to deep palpation in all four
quadrants. RLQ dressing over para site. +fluid wave
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. LUE AVF, +bruit, +thrill, partially covered w/
dressing but no erythema outside.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: ___ strength throughout. Normal sensation. AOx3.

DISCHARGE EXAM:
VITALS: 24 HR Data (last updated ___ @ 1238)
Temp: 98.8 (Tm 99.6), BP: 131/80 (94-145/61-88), HR: 89
(89-106), RR: 18, O2 sat: 96% (93-98), O2 delivery: Ra, Wt: 
158.8
lb/72.03 kg  
GENERAL: Lying comfortably in bed
HEENT:  Mucous membranes moist. 
CARDIAC: Regular rhythm, no murmurs, rubs, or
gallops. 
LUNGS: CTAB. No w/r/r
ABDOMEN: Distended. Nontender. + fluid wave, normoactive bowel
sounds
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: AOx3.
 
Pertinent Results:
ADMISSION LABS:
___ 12:20PM   RET AUT-0.4 ABS RET-0.02
___ 12:20PM   ___ PTT-29.6 ___
___ 12:20PM   PLT COUNT-112*
___ 12:20PM   NEUTS-78.7* LYMPHS-10.9* MONOS-9.5 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-2.39 AbsLymp-0.33* AbsMono-0.29 
AbsEos-0.01* AbsBaso-0.01
___ 12:20PM   WBC-3.0* RBC-3.67* HGB-10.0* HCT-33.2* MCV-91 
MCH-27.2 MCHC-30.1* RDW-17.1* RDWSD-57.2*
___ 12:20PM   ALBUMIN-3.4* CALCIUM-9.0 PHOSPHATE-3.5 
MAGNESIUM-1.8
___ 12:20PM   LIPASE-58
___ 12:20PM   ALT(SGPT)-6 AST(SGOT)-25 LD(LDH)-405* ALK 
PHOS-80 TOT BILI-0.5
___ 12:20PM   estGFR-Using this
___ 12:20PM   GLUCOSE-83 UREA N-20 CREAT-6.0*# SODIUM-139 
POTASSIUM-5.7* CHLORIDE-94* TOTAL CO2-29 ANION GAP-16
___ 01:00PM ASCITES  TNC-537* RBC-426* POLYS-0 LYMPHS-20* 
MONOS-16* MESOTHELI-4* MACROPHAG-60*
___ 01:00PM ASCITES  TOT PROT-4.3 GLUCOSE-92
___ 01:04PM   LACTATE-1.3 K+-4.5
___ 01:04PM   ___

INTERVAL LABS:
___ 06:02AM BLOOD WBC-3.6* RBC-3.37* Hgb-9.3* Hct-30.8* 
MCV-91 MCH-27.6 MCHC-30.2* RDW-17.2* RDWSD-58.0* Plt Ct-86*
___ 06:03AM BLOOD WBC-4.0 RBC-3.50* Hgb-9.6* Hct-32.2* 
MCV-92 MCH-27.4 MCHC-29.8* RDW-17.2* RDWSD-58.5* Plt ___
___ 02:49PM BLOOD ___ PTT-29.9 ___
___ 06:02AM BLOOD Plt Ct-86*
___ 06:03AM BLOOD Plt ___
___ 02:49PM BLOOD ___ 06:02AM BLOOD Glucose-98 UreaN-39* Creat-9.4*# Na-134* 
K-5.5* Cl-92* HCO3-29 AnGap-13
___ 06:03AM BLOOD Glucose-95 UreaN-28* Creat-7.3*# Na-133* 
K-5.2 Cl-91* HCO3-27 AnGap-15
___ 06:02AM BLOOD Calcium-8.4 Phos-5.4* Mg-1.8
___ 06:03AM BLOOD Calcium-8.8 Phos-4.4 Mg-1.7

DISCHARGE LABS:
___ 06:20AM BLOOD WBC-4.3 RBC-3.10* Hgb-8.5* Hct-28.2* 
MCV-91 MCH-27.4 MCHC-30.1* RDW-17.7* RDWSD-59.2* Plt Ct-84*
___ 02:49PM BLOOD ___ PTT-29.9 ___
___ 06:20AM BLOOD Glucose-91 UreaN-32* Creat-7.5*# Na-137 
K-4.7 Cl-93* HCO3-27 AnGap-17
___ 06:20AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.8

IMAGING:
Chest Xray ___:
IMPRESSION:
1. Left basilar atelectasis.
2. No consolidation or evidence of pneumonia

CT Abdomen and Pelvis w/ contrast ___:
IMPRESSION:
1. Persistent moderate volume pericardial effusion.
2. Interval increase in large abdominopelvic ascites.
3. Findings consistent with known autosomal dominant polycystic 
liver and
kidney disease.
4. Uterine fibroids.
5. Ascites containing right inguinal hernia.
6. Trace right pleural effusion.
7. Apparent circumferential thickening of the urinary bladder 
may represent acute cystitis.  Correlation with urinalysis 
recommended.

___ guided paracentesis ___:
IMPRESSION: 
1. Technically successful ultrasound guided diagnostic and 
therapeutic 
paracentesis. 
2. 5 L of fluid were removed. 

 
Brief Hospital Course:
Ms. ___ is a ___ with history of ESRD ___ ADPKD on HD 
(MWF), hypertensive cardiomyopathy (EF 35-40%), known 
moderately-sized circumferential pericardial effusion w/o 
tamponade, and large volume ascites ___ organomegaly requiring 
intermittent therapeutic paras approximately every other month, 
who presented with worsening abdominal pain and acute fevers and 
chills from HD. She was found to have Klebsiella bacteremia, 
likely from a urinary source and was given two weeks of 
antibiotic therapy. 

=============
ACUTE ISSUES:
=============
# Sepsis secondary to klebsiella blood stream infection
Initially presented with 5 day history of abdominal pain, 
nausea, emesis x4 and fevers at HD. Abdominal pain improved and 
emesis resolved. She was found to have GNR bacteremia speciated 
to Klebsiella on initial blood cultures with unclear source, but 
presumed urinary given findings of bladder wall thickening on CT 
abd/pelvis. There was no evidence of SBP on tap. Diagnostic 
urine cultures showed mixed bacterial flora. CXR showed no 
evidence of PNA. She was started on cefepime/flagyl on ___ and 
subsequently narrowed to ciprofloxacin based on sensitivies. All 
home anti-hypertensives were held in the setting of GNR sepsis. 
[] Continue ciprofloxacin (HD dosing) until ___

#Thrombocytopenia
Patient noted to have decrease in PLT 112->80s (from ___ 
concerning for sepsis induced bone marrow suppression. Labs not 
concerning for DIC. 
[] Repeat CBC on ___

# Diarrhea
Patient with four loose bowel movements the day before discharge 
concerning for antibiotic-related diarrhea vs. c. diff. 
Self-resolved, so unlikely c. diff.
[] If diarrhea persists, consider c. diff testing

#Ascites 
Patient with recurrent ascites in setting of organomegaly/cystic 
burden requiring consistent therapeutic paracentesis, last 
performed ~3 months prior to admission. She received diagnostic 
para in ED, with no evidence of SBP. Patient received inpatient 
therapeutic paracentesis with post-procedure albumin on ___, 
which also was not diagnostic for SBP. She was continued on 
simethicone and Ativan 0.5mg TID with meals for nausea.
[] Follow up peritoneal fluid cultures 

#ESRD due to ADPKD on HD MWF 
She received HD on ___. During her hospitalization she was 
continued on a renal diet, nephrocaps 1 CAP daily, home 
sevelamer 800mg PO TID, and paracalcitol 4mcg IV with HD. Per 
above, home Isosorbide mononitrate 60mg and carvedilol 25mg PO 
BID held in setting of GNR bactermia.

#HTN 
Held home carvedilol 25mg PO BID and imdur 60mg PO QD in setting 
of GNR sepsis as above, which were restarted on discharge. 

===============
CHRONIC ISSUES:
===============
#Moderate-sized circumferential pericardial effusion 
First noted on TTE in ___, seen again on TTE in ___, both 
w/o evidence of tamponade. Patient was initially on telemetry 
but this was discontinued due to stability. 
[] Will need repeat echo after discharge

#Heart failure with reduced EF (35-40%), non-ischemic
#NYHA Class I and ACC/AHA Stage C 
Thought to be secondary to hypertension. Patient had no chest 
pain or dyspnea during hospitalization. EKG on ___ was notable 
for TWI. Patient continued on home ASA 81 mg and atorvastatin 40 
mg QHS. Home carvedilol and isosorbide mononitrate were held in 
the setting of bacteremia.

#Anemia - CBC remained stable through her course. Continued EPO 
8000 unit with HD
[] Recommend outpatient colon cancer screening

#Secondary hyperparathyroidism - Continued Zemplar 
(paracalcitol) 4 mcg IV per HD

#Hypothyroidism - Continued home Levothyroxine 25 mcg daily

#GERD - Continued home Omeprazole 40mg

#Insomnia - Patient reported that home temazepam 30mg PO QHS not 
helping. Was started on remelteon 8mg QHS PRN and trazadone 25mg 
QHS PRN, which were stopped upon discharge.

#Homelessness: Currently living at ___ in 
___.

TRANSITIONAL ISSUES
====================
[] Please get CBC on ___ for PLT check (last PLT = 84 
on ___
[] Consider repeat echo and stress test in outpatient setting
[] Continue ciprofloxacin (HD dosing) until ___
[] Follow up peritoneal fluid cultures 
[] Recommend outpatient colon cancer screening
[] If diarrhea persists, consider c. diff testing

#CODE: Full (confirmed)
#CONTACT: ___, daughter - ___
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Carvedilol 25 mg PO BID 
4. Docusate Sodium 100 mg PO PRN constipation  
5. Isosorbide Mononitrate 60 mg PO DAILY 
6. Levothyroxine Sodium 25 mcg PO DAILY 
7. LORazepam 1 mg PO TID W/MEALS 
8. Nephrocaps 1 CAP PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. sevelamer CARBONATE 800 mg PO TID W/MEALS 
11. Simethicone 80 mg PO TID:PRN gas pain 
12. Lactulose 30 mL PO PRN constipation  
13. nitroglycerin 0.4 mg sublingual Q5M:PRN chest pain 
14. Vitamin D ___ UNIT PO 1X/MONTH 
15. Calcitriol 2 mcg PO ___ 
16. Temazepam 30 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q24H 
Last day ___.  Lactulose 30 mL PO DAILY:PRN constipation   
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Calcitriol 2 mcg PO ___  
6.  Carvedilol 25 mg PO BID  
7.  Docusate Sodium 100 mg PO PRN constipation   
8.  Isosorbide Mononitrate 60 mg PO DAILY  
9.  Levothyroxine Sodium 25 mcg PO DAILY  
10.  LORazepam 1 mg PO TID W/MEALS 
RX *lorazepam 1 mg 1 tablet by mouth three times a day Disp #*21 
Tablet Refills:*0 
11.  Nephrocaps 1 CAP PO DAILY  
12.  nitroglycerin 0.4 mg sublingual Q5M:PRN chest pain  
13.  Omeprazole 40 mg PO DAILY  
14.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
15.  Simethicone 80 mg PO TID:PRN gas pain  
16.  Temazepam 30 mg PO QHS:PRN insomnia 
RX *temazepam 30 mg 1 capsule(s) by mouth at bedtime Disp #*5 
Capsule Refills:*0 
17.  Vitamin D ___ UNIT PO 1X/MONTH  
18.Outpatient Lab Work
Labs: CBC
___
ICD9 code 287.5
Please fax to ___, MD (___)

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
- Sepsis secondary to Klebsiella blood stream infection

SECONDARY:
- HTN
- Pericardial effusion
- Heart failure with reduced EF
- Anemia
- Secondary Hyperparathyroidism
- Hypothyroidism
- GERD
- Insomnia 
- ESRD on hemodialysis 
- Ascites

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why did you come to the hospital?
=================================
- You initially came to the hospital because of worsening 
abdominal pain and fevers.

What happened during your hospitalization?
==========================================
- You had samples of your blood tested which showed an infection 
called Klebsiella and your were started on antibiotics. This 
likely spread from your urine. 
- You initially received IV antibiotics for this infection, and 
were switched to an oral antibiotic called Ciprofloxacin, which 
you will take for 2 weeks total (last day ___
- A paracentesis was performed on ___ to reduce the fluid in 
your abdomen and improve your nausea

What should you do when you leave the hospital?
- Continue to take all of your medications as prescribed
- Follow-up with your primary care physician within one week
- Please keep all of your other scheduled health care 
appointments
- If you develop any nausea, vomiting, diarrhea, or abdominal 
pain, please call your primary care doctor 

Sincerely,

Your ___ Care Team
 
Followup Instructions:
___